US05602170
Synthesis of 5-(1-propenyl)-2,2'-bithiophene
1 g of 5-hydroxypropyl-2,2'-bithiophene was dissolved in 20 ml of benzene, followed by adding 0.1 g of p-toluene-sulfonic acid. The mixture was then stirred at room temperature for 2 hours while monitoring by thin layer chromatography. After completion of reaction, 30 ml of water and 100 ml of ethyl acetate were then added to the mixture. The ethyl acetate extract was further purified by column chromatography. The eluant was ethyl acetate/n-hexane (1/9). The slightly yellowish liquid product was thus obtained.

reactant | 5-hydroxypropyl-2,2'-bithiophene | 1 g | OCCCC1=CC=C(S1)C=1SC=CC1 | C11H12OS2
reactant | p-toluene-sulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 30 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 5-(1-propenyl)-2,2'-bithiophene | C(=CC)C1=CC=C(S1)C=1SC=CC1 | C11H10S2
